US06121182
(1-2) 2-i-Propylidene-1-indanone
The reaction mixture was dissolved in 300 ml of benzene and 4.2 g of p-toluenesulfonic acid monohydrate was added to the solution and refluxed for 2 hours for component distillation. The product was used in the subsequent reaction without purification.

reactant | p-toluenesulfonic acid monohydrate | 4.2 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | benzene | 300 ml | C1=CC=CC=C1 | C6H6
product | 2-i-Propylidene-1-indanone | C(C)(C)=C1C(C2=CC=CC=C2C1)=O | C12H12O
